US03992333
2-sulfoethylacrylate
2-sulfoethylmethacrylate, potassium salt

reactant | 2-sulfoethylmethacrylate | S(=O)(=O)(O)CCOC(C(=C)C)=O | C6H10O5S
reactant | potassium | [K] | K
product | 2-sulfoethylacrylate | S(=O)(=O)(O)CCOC(C=C)=O | C5H8O5S
